US06583162B1
(E)-3-(2-Amino-5-chloro-3-pyridinyl)-2-propenoic Acid
t-Butyl (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoate (2 g, 7.8 mmol), was stirred in 3 ml of trifluoroacetic acid at ambient temperature for 1 hour. The reaction mixture was diluted with toluene, evaporated to dryness, and the residue triturated with diethyl ether to yield the title compound as a pale yellow solid (1.89 g, 6.0 mmol).

reactant | t-Butyl (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoate | 7.8 mmol, 2 g | NC1=NC=C(C=C1/C=C/C(=O)OC(C)(C)C)Cl | C12H15ClN2O2
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(2-Amino-5-chloro-3-pyridinyl)-2-propenoic Acid | 6.0 mmol, 1.89 g | NC1=NC=C(C=C1/C=C/C(=O)O)Cl | C8H7ClN2O2
